US05710150
4,4-Difluoro-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one (3.00 g) was dissolved in 14 ml of acetic acid, 7 ml of concentrated sulfuric acid was added to the solution and then the resulting mixture was heated at 60° C. for 10 hours. The reaction solution was ice-cooled, adjusted to a basic range with potassium hydroxide and extracted three times with ethyl acetate, and the resulting organic layer was dried over anhydrous potassium carbonate. By evaporating the reaction solvent, 4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one was obtained. This product was used in the following reaction without purification.

reactant | 4,4-Difluoro-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | 3.00 g | FC1(CCN(C2=C(C1=O)C=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2)F | C17H15F2NO3S
reactant | sulfuric acid | 7 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium hydroxide | [OH-].[K+]
solvent | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
product | 4,4-difluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | FC1(CCNC2=C(C1=O)C=CC=C2)F | C10H9F2NO
